US05605910
A. 1-Ethoxycarbonyl-4-azatricyclo[5.2.2.02,6 ]undec-8-ene-3,5-dione
13.5 g (0.138 mol) of maleimide and 25.3 g (0.17 mol) of ethyl 1,3-cyclohexadiene-1-carboxylate are heated under reflux with 1.4 g of 4-(tert-butyl)-pyrocatechol in 275 ml of toluene overnight. The mixture is concentrated and the residue is recrystallized from isopropanol.

reactant | maleimide | 0.138 mol, 13.5 g | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | ethyl 1,3-cyclohexadiene-1-carboxylate | 0.17 mol, 25.3 g | C1(=CC=CCC1)C(=O)OCC | C9H12O2
reactant | 4-(tert-butyl)-pyrocatechol | 1.4 g | C(C)(C)(C)C=1C=C(C(O)=CC1)O | C10H14O2
solvent | toluene | 275 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Ethoxycarbonyl-4-azatricyclo[5.2.2.02,6 ]undec-8-ene-3,5-dione | C(C)OC(=O)C12C3C(NC(C3C(C=C1)CC2)=O)=O | C13H15NO4
